US07576099B2
(E)-2-fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoic acid
A solution of (E)-tert-butyl 2-fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoate (500 mg, 0.002 mol) in CH2Cl2 (10 mL) and TFA (1.0 mL) was stirred at room temperature for 2 h. The solvent was removed under reduced pressure to give a white solid. LC-MS: 2.99 min, 233.2 (M−1).

reactant | (E)-tert-butyl 2-fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoate | 0.002 mol, 500 mg | FC1=C(C(=O)OC(C)(C)C)C=CC(=C1)\C=C\C(F)(F)F | C14H14F4O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (E)-2-fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoic acid | FC1=C(C(=O)O)C=CC(=C1)\C=C\C(F)(F)F | C10H6F4O2
